* Z:\mnt\spice-netlists\LTC3630_24Vin_Neg20Vout_CTRL2_.asc
XU1 N003 MP_01 IN MP_02 N005 OUT OUT OUT N006 NC_03 NC_04 NC_05 LTC3630
V1 IN 0 24
L1 N003 0 22µ
C1 0 OUT 22µ x2
Rload 0 OUT 100
R1 IN N005 200K
R2 N005 OUT 15K
V2 CTRL 0 PULSE(5 0 5m 15m 15m 2m)
R5 CTRL N004 5K
R3 N006 OUT 8.06K tol=1 pwr=0.1
R4 N001 N006 191K tol=1 pwr=0.1
R6 N002 N001 30.1K
R7 0 N002 10K
XU2 N004 N002 IN 0 N001 LT6016
C2 IN 0 10µ
.tran 42m startup
* LTC2630-H DAC
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
* LTC3630 - High Efficiency, 65V 500mA Synchronous Step-Down Converter\nLT6015 - 3.2MHz, 0.8V/µs Low Power, Over-The-Top Precision Op Amps\nPositive to Negative Converter with Variable Output\nInput: 24V     Output: 0 to -20V @ 200mA (CTRL: 0V to 5V)
.lib LTC2.LIB
.lib LTC3630.sub
.backanno
.end
